US20010020065A1
To prepare a novel vinyl 4-t-butoxycarbonyloxybenzal-vinyl alcohol-vinyl acetate copolymer, poly(vinyl alcohol) with an average molecular weight of about 8,000-200,000 is dissolved in dimethylformamide to give a 5-20 wt % solution. This solution is then added to an acid and stirred at 50-140° C. for 1-5 hrs. 4-hydroxybenzaldehyde is added, followed by stirring under the same conditions as above. Precipitation occurs in distilled water. The precipitate is dissolved in dimethylformamide again and re-precipitated in distilled water. The procedure of dissolving in dimethylformamide and precipitating in distilled water is repeated two or three times. Then, the final precipitates are dried in vacuo to obtain pure vinyl-4-hydroxybenzal-vinyl alcohol-vinyl acetate copolymer. The acid, hydrochloric acid, sulfuric acid, or phosphoric acid is used at an amount of 1-20 weight parts based on 100 weight parts of the total reaction. Instead of dimethylformamide, distilled water may be employed. In this case, as the polymerizing reaction progresses, the copolymer is produced as precipitates. A desired product can be obtained by filtering and washing the precipitates.

reactant | vinyl 4-t-butoxycarbonyloxybenzal-vinyl alcohol vinyl acetate | C(=C)C(=C=CC1=CC=C(C=C1)OC(=O)OC(C)(C)C)O.C(C)(=O)OC=C
reactant | 4-hydroxybenzaldehyde | OC1=CC=C(C=O)C=C1 | C7H6O2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | vinyl-4-hydroxybenzal-vinyl alcohol vinyl acetate | C(=C)C(=C=CC1=CC=C(C=C1)O)O.C(C)(=O)OC=C | InChI=1S/C11H10O2.C4H6O2/c1-2-10(12)6-3-9-4-7-11(13)8-5-9;1-3-6-4(2)5/h2-5,7-8,12-13H,1H2;3H,1H2,2H3
